* c:\users\dell\esim-workspace\resistors\resistors.cir

.include avsd_opamp.sub
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
* s c m o d e
v1 vdd gnd  dc 1
xsc1 net-_sc1-pad1_ vdd vdd sky130_fd_pr__res_generic_pd L=5.2 W=1
xsc2 net-_sc2-pad1_ net-_sc1-pad1_ vdd sky130_fd_pr__res_generic_pd L=5.2 W=1
x1 vdd vss vdd vin net-_u8-pad1_ gnd avsd_opamp
v2 vss gnd  dc -1
xsc3 net-_sc3-pad1_ net-_sc2-pad1_ vdd sky130_fd_pr__res_generic_pd L=5.2 W=1
x2 vdd vss net-_sc1-pad1_ vin net-_u8-pad2_ gnd avsd_opamp
v3 vin gnd  dc 4
x3 vdd vss net-_sc2-pad1_ vin net-_u8-pad3_ gnd avsd_opamp
xsc4 net-_sc4-pad1_ net-_sc3-pad1_ vdd sky130_fd_pr__res_generic_pd L=5.2 W=1
xsc5 net-_sc5-pad1_ net-_sc4-pad1_ vdd sky130_fd_pr__res_generic_pd L=5.2 W=1
xsc6 net-_sc6-pad1_ net-_sc5-pad1_ vdd sky130_fd_pr__res_generic_pd L=5.2 W=1
xsc7 gnd net-_sc6-pad1_ vdd sky130_fd_pr__res_generic_pd L=5.2 W=1
x4 vdd vss net-_sc3-pad1_ vin net-_u8-pad4_ gnd avsd_opamp
x5 vdd vss net-_sc4-pad1_ vin net-_u8-pad5_ gnd avsd_opamp
x6 vdd vss net-_sc5-pad1_ vin net-_u8-pad6_ gnd avsd_opamp
x7 vdd vss net-_sc6-pad1_ vin net-_u8-pad7_ gnd avsd_opamp
* u8  net-_u8-pad1_ net-_u8-pad2_ net-_u8-pad3_ net-_u8-pad4_ net-_u8-pad5_ net-_u8-pad6_ net-_u8-pad7_ net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ adc_bridge_7
* u9  net-_u10-pad8_ net-_u10-pad9_ net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ net-_sc13-pad2_ net-_sc9-pad2_ net-_sc8-pad2_ net-_sc14-pad2_ net-_sc11-pad2_ net-_sc10-pad2_ net-_sc12-pad2_ dac_bridge_7
* u10  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ net-_u10-pad8_ net-_u10-pad9_ net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ preencoder
xsc8 net-_sc15-pad1_ net-_sc8-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt L=1 W=1
xsc9 net-_sc10-pad1_ net-_sc9-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt L=1 W=1
xsc10 net-_sc10-pad1_ net-_sc10-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt L=1 W=1
xsc13 net-_sc11-pad1_ net-_sc13-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt L=1 W=1
xsc14 net-_sc11-pad1_ net-_sc14-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt L=1 W=1
xsc11 net-_sc11-pad1_ net-_sc11-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt L=1 W=1
xsc12 net-_sc11-pad1_ net-_sc12-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt L=1 W=1
* u1  out1 plot_v1
* u2  out2 plot_v1
* u3  out3 plot_v1
xsc15 net-_sc15-pad1_ vdd vdd sky130_fd_pr__res_generic_pd L=5.2 W=1
xsc16 net-_sc10-pad1_ vdd vdd sky130_fd_pr__res_generic_pd L=5.2 W=1
xsc17 net-_sc11-pad1_ vdd vdd sky130_fd_pr__res_generic_pd L=5.2 W=1
* u4  net-_sc15-pad1_ net-_sc10-pad1_ net-_sc11-pad1_ net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ adc_bridge_3
* u11  net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ out1 out2 out3 dac_bridge_3
* u5  net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ postencoder
* u6  vin plot_v1
a1 [net-_u8-pad1_ net-_u8-pad2_ net-_u8-pad3_ net-_u8-pad4_ net-_u8-pad5_ net-_u8-pad6_ net-_u8-pad7_ ] [net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ ] u8
a2 [net-_u10-pad8_ net-_u10-pad9_ net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ ] [net-_sc13-pad2_ net-_sc9-pad2_ net-_sc8-pad2_ net-_sc14-pad2_ net-_sc11-pad2_ net-_sc10-pad2_ net-_sc12-pad2_ ] u9
a3 [net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ ] [net-_u10-pad8_ net-_u10-pad9_ net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ ] u10
a4 [net-_sc15-pad1_ net-_sc10-pad1_ net-_sc11-pad1_ ] [net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ ] u4
a5 [net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ ] [out1 out2 out3 ] u11
a6 [net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ ] [net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ ] u5
* Schematic Name:                             adc_bridge_7, NgSpice Name: adc_bridge
.model u8 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_7, NgSpice Name: dac_bridge
.model u9 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             preencoder, NgSpice Name: preencoder
.model u10 preencoder(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u11 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             postencoder, NgSpice Name: postencoder
.model u5 postencoder(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 1e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vin) v(out1)+6 v(out2)+12 v(out3)+18
.endc
.end
